US04462943
(e) 1-[N-(1-Benzyloxycarbonyl-3-phenylpropyl)-L-alanyl]-4-(S)-(phenylthio)-L-proline
A solution of 200 mg. of 1-(L-alanyl)-4-(S)-(phenylthio)-L-proline and 1.1 grams of benzyl 2-oxo-4-phenylbutyrate in 8 ml. of ethanol is stored at room temperature with 3 grams of powdered molecular sieves (type 4A). Over the course of three hours, 75 mg. of sodium cyanoborohydride is added. The reaction mixture is filtered and concentrated under reduced pressure. The residue is purified by absorption on a strong cation exchange resin and elution with 2% pyridine in water. After passage through a gel filtration column, the desired product, 1-[N-(1-benzyloxycarbonyl-3-phenylpropyl)-L-alanyl]-4-(S)-(phenylthio)-L-proline, is obtained as a mixture of isomers that can be separated by high performance liquid chromatography.

reactant | 1-(L-alanyl)-4-(S)-(phenylthio)-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)C[C@@H](C1)SC1=CC=CC=C1 | C14H18N2O3S
reactant | benzyl 2-oxo-4-phenylbutyrate | 1.1 grams | O=C(C(=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1 | C17H16O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-[N-(1-benzyloxycarbonyl-3-phenylpropyl)-L-alanyl]-4-(S)-(phenylthio)-L-proline | C(C1=CC=CC=C1)OC(=O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)C[C@@H](C1)SC1=CC=CC=C1 | C31H34N2O5S
